US06562849B1
1-(Adamant-1-yl)-3-(4-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)urea (exemplification compound number 1-8)
A mixture of 5-[4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (400 mg), 1-adamantyl isothiocyanate (284 mg), triethylamine (153 mg) and anhydrous N,N-dimethylformamide (8 ml) was stirred at room temperature for 4.5 hours, at 50° C. for 2.5 hours and then at 80° C. for 4.5 hours. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The residue was chromatographed on a silica gel column using ethyl acetate:n-hexane=1:1→2:1→3:1 as the eluant and the product was recrystallized from ethyl acetate to afford the title compound (192 mg, mp 164.0-166.6° C.).

reactant | 5-[4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 400 mg | Cl.Cl.NC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | 1-adamantyl isothiocyanate | 284 mg | C12(CC3CC(CC(C1)C3)C2)N=C=S | C11H15NS
reactant | triethylamine | 153 mg | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 1-(Adamant-1-yl)-3-(4-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)urea | 192 mg | C12(CC3CC(CC(C1)C3)C2)NC(=O)NC2=CC=C(C=C2)OC=2C=CC3=C(N(C(=N3)COC3=CC=C(C=C3)CC3C(NC(S3)=O)=O)C)C2 | C36H37N5O5S
